* test6 Gate 6B: closed-loop CMFB nominal verification
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include eeg_fd_ota_core.spice
.include eeg_cmfb_amp.spice
.include eeg_fd_ota_cmfb_closed.spice

.param VDD=1.8 VCM=0.9 VBN=0.65
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VBN_SRC VBN 0 {VBN}
VINP INP 0 DC {VCM} AC 0.5 0
VINN INN 0 DC {VCM} AC 0.5 180
XAFE INP INN VCM_REF VBN OUTP OUTN VDD18 0 eeg_fd_ota_cmfb_closed
CLOADP OUTP 0 1p
CLOADN OUTN 0 1p

.control
set noaskquit
op
let idd=-i(VDD_SRC)
let vcmout=(v(OUTP)+v(OUTN))/2
print v(OUTP) v(OUTN) vcmout idd
wrdata ../results/cmfb_tt_op.csv v(OUTP) v(OUTN) vcmout idd
tran 10u 20m
wrdata ../results/cmfb_tt_startup.csv time v(OUTP) v(OUTN)
ac dec 100 0.1 10Meg
let vdiff=v(OUTP)-v(OUTN)
let gain_db=db(vdiff)
meas ac gain_10hz_db find gain_db at=10
meas ac gain_100hz_db find gain_db at=100
wrdata ../results/cmfb_tt_diff_ac.csv frequency gain_db
quit
.endc
.end
